2129-04-24 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD line placed and started
   - Bronch with some blood that cleared.
   - Large amount of mucosal bleeding. Given DDAVP and amicar
   - LP with 2 WBC
   - Oxygen requirement up with increase to FiO2 50% and PEEP 12 yesterday
   afternoon, back down to PEEP 8 this AM.
   - Hct 31.2 ->26.4
   - ? BRBPR vs blood from HD line placement
   - Febrile to 101.6 yesterday
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2129-4-23**] 08:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-4-23**] 08:34 AM
   Acyclovir - [**2129-4-23**] 03:00 PM
   Ampicillin - [**2129-4-23**] 10:00 PM
   Clindamycin - [**2129-4-24**] 02:29 AM
   Doxycycline - [**2129-4-24**] 04:15 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-4-23**] 05:40 PM
   Pantoprazole (Protonix) - [**2129-4-23**] 10:00 PM
   Midazolam (Versed) - [**2129-4-23**] 10:05 PM
   Fentanyl - [**2129-4-24**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-24**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98.1
   HR: 74 (67 - 96) bpm
   BP: 137/78(97) {132/72(90) - 182/107(130)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,780 mL
                                                                    671 mL
   PO:
             TF:
   IVF:
                                                                  3,215 mL
                                                                    491 mL
   Blood products:
                                                                    566 mL
   Total out:
                                                                    705 mL
                                                                     32 mL
   Urine:
                                                                    115 mL
                                                                     32 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  3,075 mL
                                                                    639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 570 (570 - 570) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.38/38/113/20/-1
   Ve: 8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   154 K/uL
   9.5 g/dL
   150 mg/dL
   12.9 mg/dL
   20 mEq/L
   6.5 mEq/L
   147 mg/dL
   98 mEq/L
   137 mEq/L
   26.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2129-4-23**]  10:58 AM
                             [**2129-4-23**]  12:57 PM
                             [**2129-4-23**]  02:15 PM
                             [**2129-4-23**]  02:23 PM
                             [**2129-4-23**]  08:35 PM
                             [**2129-4-23**]  08:36 PM
                             [**2129-4-23**]  08:42 PM
                             [**2129-4-24**]  03:08 AM
                             [**2129-4-24**]  03:34 AM
                             [**2129-4-24**]  05:57 AM
   WBC
   7.5
   Hct
   31.4
   31.2
   26.4
   Plt
   172
   154
   Cr
   16.5
   11.3
   12.9
   TCO2
   26
   26
   24
   25
   25
   23
   Glucose
   101
   127
   150
   Other labs: PT / PTT / INR:13.6/58.1/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7588**]//, ALT / AST:[**Telephone/Fax (1) 7589**], Alk Phos / T Bili:74/0.3,
   D-dimer:7333 ng/mL, Fibrinogen:453 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:4040 IU/L, Ca++:7.5 mg/dL, Mg++:3.1 mg/dL,
   PO4:7.8 mg/dL
   Assessment and Plan
   Mr. [**Doctor Last Name 7575**] is a 17 year old Guatemalan male previously
   healthy who presents with 1 week of nausea, vomiting, abdominal pain,
   diarrhea, diffuse rash found to have rhabdomyolysis, ARF, diffuse
   pulmonary infiltrates, and pneumomediastinum.
   # Respiratory failure: Patient intubated for worsening dyspnea and
   hypoxia with initial increase in oxygen requirement concerning for
   [**Doctor Last Name 11**]/ARDS with P/F <300 and bilateral pulmonary infiltrates.  Etiology
   still unclear at this time, although differential is still broad and
   includes toxin mediated exposure, Strep or Staph toxic shock, pesticide
   mediated exposure, +/- ANCA associated vasculitis, viral infection with
   myositis although rapid viral screen negative, tick-borne infection
   including Erlichia and RMSF, or bacterial infection including
   meningococcemia.  Bronch inconsistent with DAH.
   - Continue mechanical ventilation at ARDS settings
   - Continue solumedrol 125 mg Q24 (day [**1-11**])
   - Consider additional IVIG dosing.
   - Continue vanco, clindamycin, ampcillin, acylovir, and doxycycline.
   Will likely be able to pull off antibiotics as culture and serology
   data returns.
   - Follow-up culture data, serologies, ASLO, GAS throat swab.
   - Follow-up inflammatory work-up including ANCA and complement levels.
   - Appreciate derm, ID, thoracic, toxicology recs, liver, and renal recs
   - Consent for HIV test
   # ARF: Likely element of GN given urine sediment consistent with
   nephritic process with rhabdomyolysis contributing. Patient had HD line
   placed yesterday with 2 hours of HD performed with 500 cc
   ultrafiltrated. Electrolytes remain abnormal today including
   hyperkalemia without ECG changes and elevated BUN/Cr. Remains oliguric.
   - Kayexylate
   - Follow-up with renal regarding HD today.
   - Check lytes TID
   - Monitor UOP
   # Rhabdomyolysis: Unclear precipitating event at this time, although
   differential includes allergic, toxic, infectious, traumatic, or
   inflammatory.
   - Serial CKs and electrolytes
   - Continue work-up as above.
   # Fever: Broad differential as above including infectious,
   inflammatory, toxin-mediated. Patient continues to be hemodynamically
   stable.
   - Culture if spikes.
   - Antimicrobials as above.
   # Anemia: Hematocrit trending down to 26.4 from 38 on admission.
   Hemolysis unlikely given normal haptoglobin. Patient likely was
   hemoconcentrated on admission, although concern over GIB given coffee
   ground emesis and continued clots on OGT suctioning. Differential
   includes [**Doctor First Name **]-[**Doctor Last Name **] tear, gastritis, PUD, or other UGIB.  OGT
   suctioning clots.
   - Serial hct and repeat DIC labs, transfuse for hct <21 or signs or
   symptoms of end organ damage.
   - Appreciate GI and thoraric recs
   - IV PPI [**Hospital1 7**]
   - 2 large bore PIV
   - Active T+S.
   # Rash: Rapidly improved over the course of yesterday. Appreciate
   dermatology consult, who feel that transient nature of rash most
   consistent with toxin-mediated mechanism.  Mucositis appears to be
   clinically worsens with questionable development of vesicles on tongue.
   - antimicrobials as above.
   - follow-up derm recs if any, although unlikely to biopsy at this time.
   # Pneumomediastinum: source either from lungs, trachea, or esophagus.
   Per Thoracics, less likely esophageal source given location. Feels more
   likely bleb rupture from wretching.
   - appreciate thoracics input
   - repeat CXR for difficulty ventilating
   - antibiotic therapy as above
   # Acid base balance: Patient with anion gap acidosis (AG 18) likely
   from uremia with relatively appropriate respiratory compensation.
   Given delta gap, likely with element of metabolic alkalosis as well
   from vomiting.
   - Trend lytes
   - HD per renal
   # Transaminitis: Likely seconadry to rhabdomyolysis rather than liver
   disease given preserved synthetic function.
   - Serial LFTs with CKs and lytes
   - Appreciate liver input
   - Follow-up hep serologies, AMA, [**Last Name (un) 4195**].
   # Hypocalcemia: Likely related to elevated phosphate in setting of ARF
   versus toxic shock mediated.
   - Trend Ca and replete as necessary
   # Hyperkalemia: Likely due to combination of rhabdomyolysis and ARF.
   Serum potassium remains eleveated today despite HD session yesterday.
   ECG today without changes.
   - Kayexalate titrated to BM
   - Serial chemistries as above
   - HD per renal
   FEN: NPO, replete as necessary.
   PPx: Heparin SQ. PPI [**Hospital1 7**].
   ACCESS: 20G PIV x2, 18G PIV x 1. A-line.
   - monitor BP closely and place central line if requires pressors
   CODE: FULL
   COMM: father: [**Name (NI) 7577**] [**Name (NI) **] [**Doctor Last Name 7578**]
   DISP: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-4-23**] 08:33 AM
   Arterial Line - [**2129-4-23**] 08:45 AM
   20 Gauge - [**2129-4-23**] 10:00 AM
   Dialysis Catheter - [**2129-4-23**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-04-25 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated, maintained sats well until early AM [**4-25**] requiring face tent
   and 100% O2, weaned down to 70%.
   HD [**4-24**]
   Ca consistently low, requiring repletion
 INVASIVE VENTILATION - STOP [**2129-4-24**] 02:55 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2129-4-23**] 08:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-4-23**] 08:34 AM
   Acyclovir - [**2129-4-23**] 03:00 PM
   Ampicillin - [**2129-4-23**] 10:00 PM
   Clindamycin - [**2129-4-24**] 02:29 AM
   Doxycycline - [**2129-4-24**] 04:15 AM
   Ampicillin/Sulbactam (Unasyn) - [**2129-4-24**] 01:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-4-24**] 10:15 AM
   Midazolam (Versed) - [**2129-4-24**] 12:00 PM
   Pantoprazole (Protonix) - [**2129-4-24**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 68 (53 - 88) bpm
   BP: 177/89(116) {133/80(99) - 177/93(117)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,071 mL
                                                                    118 mL
   PO:
             TF:
   IVF:
                                                                    891 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                    717 mL
                                                                     37 mL
   Urine:
                                                                     97 mL
                                                                     37 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    354 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 462 (462 - 651) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI: 27
   PIP: 5 cmH2O
   SpO2: 94%
   ABG: 7.50/33/76.[**Numeric Identifier 126**]/24/2
   Ve: 9.8 L/min
   PaO2 / FiO2: 76
   Physical Examination
   Gen:  Somnolent, wakes easily, interactive
   HEENT:  bloody saliva, crusted blood around mouth, face tent in place
   Chest:  tachypnic, sm crackles left base, slight wheeze right base
   CV:  RRR, nl S1S2
   Abd: Soft, NT, ND
   Skin: no rash over skin of abdomen, chest, or arms
   Ext: pneumoboots, no edema
   Labs / Radiology
   143 K/uL
   8.7 g/dL
   139 mg/dL
   9.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   102 mg/dL
   99 mEq/L
   141 mEq/L
   24.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2129-4-24**]  03:34 AM
                             [**2129-4-24**]  05:57 AM
                             [**2129-4-24**]  09:38 AM
                             [**2129-4-24**]  01:17 PM
                             [**2129-4-24**]  01:23 PM
                             [**2129-4-24**]  03:40 PM
                             [**2129-4-24**]  08:45 PM
                             [**2129-4-25**]  01:46 AM
                             [**2129-4-25**]  01:59 AM
                             [**2129-4-25**]  05:10 AM
   WBC
   8.7
   7.0
   Hct
   26.5
   24.2
   Plt
   178
   143
   Cr
   6.9
   9.1
   TCO2
   25
   23
   22
   28
   27
   28
   28
   27
   Glucose
   144
   139
   Other labs: PT / PTT / INR:13.9/36.6/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7607**]//, ALT / AST:539/757, Alk Phos / T Bili:65/0.4,
   D-dimer:7333 ng/mL, Fibrinogen:453 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:2485 IU/L, Ca++:6.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:7.1 mg/dL
   Assessment and Plan
   Mr. [**Doctor Last Name 7575**] is a 17 year old Guatemalan male previously
   healthy who presents with 1 week of nausea, vomiting, abdominal pain,
   diarrhea, and a  diffuse rash found to have rhabdomyolysis, ARF,
   bilateral pulmonary infiltrates, and pneumomediastinum.
   # Respiratory failure: Patient was intubated for worsening dyspnea and
   hypoxia with initial increase in oxygen requirement concerning for
   [**Doctor Last Name 11**]/ARDS with P/F <300 and bilateral pulmonary infiltrates.  CXR much
   improved yesterday, and patient was able to be extubated [**4-24**].
   Hypoxemic respiratory failure thought to be secondary to volume
   overload from ARF now improving after HD.  Desaturation am of [**4-25**]
   perhaps related to mucus/sputum/plugging.
   - continues to require 70% FiO2 face tent.  Wean as tolerated.
   Encourage IS and coughing.
   # ARF: Consistent with GN with additional component of pigment
   nephropathy from rhabdomyolysis.  Most likely etiology at this time is
   post-strep GN, although other etiologies including Strep or Staph toxic
   shock, pesticide mediated exposure, +/- ANCA associated vasculitis or
   IgA/HSP vasculitis, viral infection with myositis although rapid viral
   screen negative, tick-borne infection including Erlichia and RMSF, or
   bacterial infection including meningococcemia cannot be excluded
   completely at this time. Bronch inconsistent with DAH. LP with WBC 2
   and otherwise unconcerning.
   - Follow up renal biopsy [**4-25**]
   - Continue solumedrol 125 mg Q24 (day [**2-8**]), consider continuing based
   on renal recs.
   - Continue unasyn for now
   - Follow-up culture data, serologies, ASLO, GAS throat swab.
   - Follow-up inflammatory work-up including ANCA and complement levels.
   - Appreciate derm, ID, thoracic, toxicology recs, liver, and renal recs
   - consider testing for HIV, though low on differential.
   - Trend lytes. Kayexalate prn for hyperkalemia
   - F/u renal recs if any- may be a candidate for UF if does not require
   HD
   - Monitor UOP.
   - Consider d/c femoral HD line if does not need dialysis today.  Would
   prefer placement of permanent catheter following 1 day line holiday.
   # Rhabdomyolysis: Unclear precipitating event at this time, although
   differential includes allergic, toxic, infectious, traumatic, or
   inflammatory.  Rhabdo most inconsistent with post-Strep GN. As patient
   is anuric/oliguric, patient unlikely to benefit from continued IVFs.
   - Serial CKs and electrolytes
   - Continue work-up as above.
   # Fever: Broad differential as above including infectious,
   inflammatory, toxin-mediated. Patient continues to be hemodynamically
   stable.  Afebrile for > 24 hours.
   - Culture if spikes.
   - Antimicrobials as above.
   # Anemia: Hematocrit trending down to 24.2 from 38 on admission.
   Hemolysis unlikely given normal haptoglobin. Concern over GIB given
   coffee ground emesis and continued clots on OGT suctioning.
   Differential includes [**Doctor First Name **]-[**Doctor Last Name **] tear, gastritis, PUD, or other
   UGIB.
   - Serial hct and repeat DIC labs, transfuse for hct <21 or signs or
   symptoms of end organ damage.
   - Appreciate GI and thoracic recs
   - IV PPI [**Hospital1 7**]
   - 2 large bore PIV
   - Active T+S.
   # Rash: Rapidly improved over the course of yesterday. Appreciate
   dermatology consult, who feel that transient nature of rash most
   consistent with toxin-mediated mechanism.  Mucositis improved today.
   - Follow-up derm recs if any, although unlikely to biopsy at this time.
   # Pneumomediastinum: Per Thoracics, less likely esophageal source given
   location and more likely to be ruptured bleb.
    - Appreciate thoracics input
   - Amp/sulbactam as above
   - Thin barium swallow today to evaluate for leak
   # Acid base balance: Patient with anion gap acidosis (AG 18) likely
   from uremia with relatively appropriate respiratory compensation.
   Given delta gap, likely with element of metabolic alkalosis as well
   from vomiting.
   - Trend chemistries
   - HD per renal
   # Transaminitis: Likely seconadry to rhabdomyolysis rather than liver
   disease given preserved synthetic function.
   - Serial LFTs with CKs and lytes
   - Appreciate liver input
   - Follow-up hep serologies, AMA, [**Last Name (un) 4195**].
   # Hypocalcemia: Likely related to elevated phosphate in setting of ARF
   versus toxic shock mediated.
   - Trend Ca and replete as necessary with calcium gluconate and via HD
   bath.
   # Hyperkalemia: Likely due to combination of rhabdomyolysis and ARF.
   Serum potassium at 4.2today.
   - Kayexalate titrated to BM
   - Serial chemistries as above
   - HD per renal
   FEN: NPO, replete as necessary.
   PPx: SCDs. PPI [**Hospital1 7**].
   ACCESS: PIV x4. Radial arterial line.  Right femoral HD line.
   CODE: FULL
   COMM: father: [**Name (NI) 7577**] [**Name (NI) **] [**Doctor Last Name 7578**]- met with SW [**4-24**], note in OMR.
   DISP: ICU level of care for today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-4-23**] 08:33 AM
   Arterial Line - [**2129-4-23**] 08:45 AM
   20 Gauge - [**2129-4-23**] 10:00 AM
   Dialysis Catheter - [**2129-4-23**] 05:00 PM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-04-27 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RP bleed on CT,  vasc [**Doctor First Name 213**] and IR on board.
   - Transfused 4 units and put in for another 2 at 0400. Trying to avoid
   IR procedure given renal bx showed ATN from rhabdo. rhabdo unclear
   etiology, ? muscle bx and rheum consult in am.
   - Blood Cx for leukocytosis this am
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2129-4-26**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-4-26**] 07:30 AM
   Hydromorphone (Dilaudid) - [**2129-4-27**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 75 (72 - 112) bpm
   BP: 140/77(91) {103/47(64) - 143/81(94)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,610 mL
                                                                    119 mL
   PO:
                  TF:
   IVF:
                                                                    110 mL
   Blood products:
                                                                  1,500 mL
                                                                    119 mL
   Total out:
                                                                     98 mL
                                                                     27 mL
   Urine:
                                                                     98 mL
                                                                     27 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,512 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Firm on right with tenderness to palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   218 K/uL
   9.5 g/dL
   109 mg/dL
   7.5 mg/dL
   25 mEq/L
   5.5 mEq/L
   94 mg/dL
   103 mEq/L
   143 mEq/L
   24.9 %
   22.1 K/uL
        [image002.jpg]
                             [**2129-4-25**]  05:44 PM
                             [**2129-4-25**]  11:09 PM
                             [**2129-4-26**]  03:53 AM
                             [**2129-4-26**]  11:00 AM
                             [**2129-4-26**]  02:17 PM
                             [**2129-4-26**]  05:05 PM
                             [**2129-4-26**]  06:44 PM
                             [**2129-4-26**]  10:00 PM
                             [**2129-4-26**]  11:54 PM
                             [**2129-4-27**]  03:25 AM
   WBC
   8.5
   22.1
   Hct
   23.4
   20.2
   26.1
   23.2
   28.1
   26.2
   26.5
   24.9
   Plt
   241
   227
   218
   Cr
   5.9
   6.9
   7.5
   TCO2
   29
   Glucose
   136
   106
   109
   Other labs: PT / PTT / INR:16.4/29.7/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7626**]//, ALT / AST:458/586, Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:249/195, Differential-Neuts:89.8 %, Lymph:7.4 %,
   Mono:2.6 %, Eos:0.0 %, D-dimer:7333 ng/mL, Fibrinogen:316 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:1708 IU/L, Ca++:6.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.3 mg/dL
   Imaging: CTAP:
   1. Large acute/subacute right retroperitoneal hematoma above the right
   kidney
   and extending inferiorly through the retroperitoneum. Urgent urologic
   consultation is recommended. Angiography could also be considered if
   indicated.
   2. New small amount of fluid around the spleen and liver, which may be
   fluid
   from aggressive resuscitation. A small amount of hemoperitoneum cannot
   be
   excluded.
   3. Probable bibasilar pneumonia.
   4. Small bilateral pleural effusions, simple in attenuation.
   5. CT evidence of anemia.
   Microbiology:
   Assessment and Plan
   Mr. [**Doctor Last Name 7575**] is a 17 year old Guatemalan male previously
   healthy who presents with 1 week of nausea, vomiting, abdominal pain,
   diarrhea, and a  diffuse rash found to have rhabdomyolysis, ARF,
   bilateral pulmonary infiltrates, and pneumomediastinum.
   # RP bleed/anemia: In setting of renal biopsy and uremic platelets.
   - Trend hct and coags Q8H, transfuse for hct<21
   - Follow-up with IR and transplant surgery
   - Patient may require IR procedure for embolization
   - Consider DDAVP and amicar.  Vitamin K 10 mg IV
   - Hold AV nodal blockade
   # ARF: Initial renal biopsy results most consistent with pigment
   nephropathy with complete results pending.  ASO negative, making
   post-Strep GN unlikely. Would consider IgA process or other vasculitis
   process with labs pending.  C3 low, normal C4 ANCA negative. Patient
   completed pulse dose steroids on [**4-25**].
   - HD per renal
   - Hold steroids for now pending renal biopsy results
   - Follow-up with renal regarding biopsy results
   - Follow-up culture data, serologies, inflammatory work-up.
   - If renal biopsy most consistent with pigment nephropathy, consider
   rheum consult for possible muscle biopsy.
   - Plan for IR temp HD line tomorrow.
   # Leukocytosis: WBC up to 22.1 with left shift.  Likely stress reaction
   to RP bleed.  Patient has been afebrile and was pan-cultured yesterday.
   - Follow-up culture data
   - Continue amp/sulbactam for now for possible peri-procedure coverage.
   # Rhabdomyolysis: Unclear precipitating event at this time. Trending
   down with steroids and initial fluid, though that has been stopped as
   patient is anuric. As above, if ARF is ultimately secondary to pigment
   nephropathy, would need to further work-up rhabdomyolysis including
   rheum consult and possible muscle biopsy.
   - Serial CKs and electrolytes
   - Check TSH
   # Fever: Patient has been afebrile since [**4-23**].  Broad differential as
   has been noted including infectious, inflammatory, toxin-mediated.
   Continues to be hemodynamically stable.
   - Follow-up culture data
   - Continue prophylactic amp/sulbactam for now.
   # Respiratory failure: Intubated for airway protection in the setting
   of coffee-ground emesis, now extubated.
   - Continue to wean O2 as tolerated
   # GIB: Multifactorial from GI losses, bleeding diathesis from uremic
   platelets with most recent complication being RP bleed from renal
   biopsy.
   - Continue to trend and transfuse for Hct < 21 and or HD instability
   - 2 large bore PIV
   - Active T+S.
   # Rash: Rapidly improved over the course of hospitalization. Appreciate
   dermatology consult, who feel that transient nature of rash most
   consistent with toxin-mediated mechanism.  Mucositis improved today.
   - Follow-up derm recs if any, although unlikely to biopsy at this time.
   # Pneumomediastinum: Per Thoracics, less likely esophageal source given
   location and more likely to be ruptured bleb. Esophagram without
   extravasation.
   - Appreciate thoracics input
   # Acid base balance: Patient with anion gap acidosis  likely from
   uremia with relatively appropriate respiratory compensation.  Given
   delta gap, likely with element of metabolic alkalosis as well from
   vomiting.
   - Trend chemistries
   - HD per renal
   # Transaminitis: Likely seconadry to rhabdomyolysis rather than liver
   disease given preserved synthetic function. AMA, [**Last Name (un) 4195**], [**Doctor First Name **] negative.
   - Serial LFTs with CKs and lytes
   - Appreciate liver input
   # Hypocalcemia: Likely related to elevated phosphate in setting of ARF
   versus toxic shock mediated.
   - Trend Ca and replete as necessary with calcium gluconate and via HD
   bath.
   # Hyperkalemia: Likely due to combination of rhabdomyolysis and ARF.
   Serum potassium at 4.2today.
   - Kayexalate titrated to BM
   - Serial chemistries as above
   - HD per renal
   FEN: Regular, replete as necessary, ISS
   PPx: SCDs.
   ACCESS: PIV x4. Right femoral HD line.
   CODE: FULL
   COMM: Father: [**Name (NI) 7577**] [**Name (NI) **] [**Doctor Last Name 7578**]- met with SW [**4-24**], note in OMR.
   DISP: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2129-4-23**] 05:00 PM
   14 Gauge - [**2129-4-26**] 11:00 AM
   18 Gauge - [**2129-4-26**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-04-28 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 2 units PRBC yesterday morning. Received total of 6 units
   PRBC
   - Hct 29 -> 27 in p.m.; IR [**Name (NI) 167**], wanted to defer embolization till
   a.m. with HD line placement given stability.  Surgery does not want to
   embolize.
   - Did not get HD b/c fem line clotted; fem line d/c'd
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2129-4-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2129-4-28**] 07:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-28**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.5
C (97.7
   HR: 59 (59 - 94) bpm
   BP: 134/67(84) {131/64(82) - 149/77(92)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,228 mL
                  PO:
                                                                    200 mL
                  TF:
   IVF:
                                                                    400 mL
   Blood products:
                                                                    628 mL
   Total out:
                                                                     87 mL
                                                                      0 mL
   Urine:
                                                                     87 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,141 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Firm on right with tenderness to palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   270 K/uL
   9.8 g/dL
   100 mg/dL
   9.1 mg/dL
   23 mEq/L
   4.9 mEq/L
   117 mg/dL
   103 mEq/L
   143 mEq/L
   27.0 %
   23.8 K/uL
        [image002.jpg]
                             [**2129-4-26**]  11:00 AM
                             [**2129-4-26**]  02:17 PM
                             [**2129-4-26**]  05:05 PM
                             [**2129-4-26**]  06:44 PM
                             [**2129-4-26**]  10:00 PM
                             [**2129-4-26**]  11:54 PM
                             [**2129-4-27**]  03:25 AM
                             [**2129-4-27**]  11:03 AM
                             [**2129-4-27**]  07:39 PM
                             [**2129-4-28**]  04:31 AM
   WBC
   22.1
   23.5
   22.0
   23.8
   Hct
   26.1
   23.2
   28.1
   26.2
   26.5
   24.9
   29.4
   26.9
   27.0
   Plt
   [**Telephone/Fax (3) 7663**]70
   Cr
   6.9
   7.5
   8.2
   9.1
   Glucose
   106
   109
   138
   100
   Other labs: PT / PTT / INR:13.2/29.4/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7664**]//, ALT / AST:449/556, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:249/195, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7333 ng/mL, Fibrinogen:348
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:1708 IU/L,
   Ca++:5.6 mg/dL, Mg++:2.4 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   Mr. [**Doctor Last Name 7575**] is a 17 year old Guatemalan male previously
   healthy who presents with 1 week of nausea, vomiting, abdominal pain,
   diarrhea, and a  diffuse rash found to have rhabdomyolysis, ARF,
   bilateral pulmonary infiltrates, and pneumomediastinum.
   # RP bleed/anemia: In setting of renal biopsy and uremic platelets.
   Hct stable since transfusion. Per surgery, will hold off on angio and
   embolization for now. Patient received IV vitamin K yesterday.
   - Trend hct and coags Q12H, transfuse for hct<21
   - Follow-up with IR and transplant surgery
   # ARF: Initial renal biopsy results most consistent with pigment
   nephropathy with complete results pending.  ASO negative, making
   post-Strep GN unlikely. Would consider IgA process or other vasculitis
   process with immunostaining pending.  C3 low, normal C4, ANCA negative.
   Patient completed pulse dose steroids on [**4-25**]. Adenovirus negative, HSV
   1 IgG positive/[**Doctor Last Name 7665**] negative, EBV equivocal.
   - HD per renal
   - Follow-up with renal regarding biopsy results
   - Follow-up culture data, serologies, inflammatory work-up.
   - If renal biopsy most consistent with pigment nephropathy, consider
   rheum consult for possible muscle biopsy.
   - Plan for IR temp HD line today.
   # Leukocytosis: WBC up to 23 with left shift.  Likely stress reaction
   to RP bleed.  Patient has been afebrile and was pan-cultured yesterday.
   - Follow-up culture data
   - Continue amp/sulbactam through this morning, then discontinue
   - IF patient spikes or becomes hemodynamically unstable, would consider
   non-con CT chest to eval for organized effusions.
   # Rhabdomyolysis: Unclear precipitating event at this time. CKs and
   LFTs trending down.  Trending down with steroids and initial fluid,
   though that has been stopped as patient is anuric. As above, if ARF is
   ultimately secondary to pigment nephropathy, would need to further
   work-up rhabdomyolysis including rheum consult and possible muscle
   biopsy.
   - Serial CKs, LFTs, and electrolytes
   - Check TSH
   # Fever: Patient has been afebrile since [**4-23**].  Broad differential as
   has been noted including infectious, inflammatory, toxin-mediated.
   Continues to be hemodynamically stable.
   - Follow-up culture data
   - Hold amp/sulbactam as above.
   # Respiratory failure: Intubated for airway protection in the setting
   of coffee-ground emesis, now extubated.
   - Continue to wean O2 as tolerated, currently at 2L nc.
   # GIB: Multifactorial from GI losses, bleeding diathesis from uremic
   platelets with most recent complication being RP bleed from renal
   biopsy.
   - Continue to trend and transfuse for Hct < 21 and or HD instability
   - 2 large bore PIV
   - Active T+S.
   # Rash: Rapidly improved over the course of hospitalization. Appreciate
   dermatology consult, who feel that transient nature of rash most
   consistent with toxin-mediated mechanism.  Mucositis improved today.
   - Follow-up derm recs if any, although unlikely to biopsy at this time.
   # Pneumomediastinum: Per Thoracics, less likely esophageal source given
   location and more likely to be ruptured bleb. Esophagram without
   extravasation.
   - Follow-up thoracics recs if any
   # Acid base balance: Patient with anion gap acidosis likely from uremia
   with relatively appropriate respiratory compensation.
   - Trend chemistries
   - HD per renal
   # Transaminitis: Likely secondary to rhabdomyolysis rather than liver
   disease given preserved synthetic function. AMA, [**Last Name (un) 4195**], [**Doctor First Name **] negative.
   - Trend LFTs with CKs and chemistries
   - Appreciate liver input
   FEN: Regular, replete as necessary, ISS
   PPx: SCDs.
   ACCESS: PIV x4. R femoral HD line pulled. Temp HD line by IR today.
   CODE: FULL
   COMM: Father: [**Name (NI) 7577**] [**Name (NI) **] [**Doctor Last Name 7578**]- met with SW [**4-24**], note in OMR.
   DISP: ICU level of care, although may be able to call out this evening
   or tomorrow if pt remains stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   14 Gauge - [**2129-4-26**] 11:00 AM
   18 Gauge - [**2129-4-26**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-04-29 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No IR embolzation
   HD
   HCT stable
   DC unasyn, afebrile
   DC foley
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2129-4-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2129-4-28**] 07:10 AM
   Midazolam (Versed) - [**2129-4-28**] 12:29 PM
   Fentanyl - [**2129-4-28**] 12:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-4-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 61 (52 - 72) bpm
   BP: 136/65(82) {116/49(65) - 149/86(97)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    600 mL
                  PO:
                                                                    350 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Firm on right with tenderness to palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   340 K/uL
   10.1 g/dL
   99 mg/dL
   5.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   53 mg/dL
   99 mEq/L
   136 mEq/L
   28.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2129-4-26**]  06:44 PM
                             [**2129-4-26**]  10:00 PM
                             [**2129-4-26**]  11:54 PM
                             [**2129-4-27**]  03:25 AM
                             [**2129-4-27**]  11:03 AM
                             [**2129-4-27**]  07:39 PM
                             [**2129-4-28**]  04:31 AM
                             [**2129-4-28**]  12:00 PM
                             [**2129-4-28**]  04:56 PM
                             [**2129-4-29**]  03:44 AM
   WBC
   22.1
   23.5
   22.0
   23.8
   23.2
   Hct
   28.1
   26.2
   26.5
   24.9
   29.4
   26.9
   27.0
   27.4
   32.0
   28.0
   Plt
   [**Telephone/Fax (3) 7663**]70
   340
   Cr
   7.5
   8.2
   9.1
   5.5
   Glucose
   109
   138
   100
   99
   Other labs: PT / PTT / INR:12.3/29.1/1.0, CK / CKMB /
   Troponin-T:[**Numeric Identifier 7680**]//, ALT / AST:317/387, Alk Phos / T Bili:64/0.7,
   Amylase / Lipase:223/245, Differential-Neuts:92.0 %, Band:1.0 %,
   Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:7333 ng/mL, Fibrinogen:348
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:1336 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Mr. [**Doctor Last Name 7575**] is a 17 year old Guatemalan male previously
   healthy who presents with 1 week of nausea, vomiting, abdominal pain,
   diarrhea, and a  diffuse rash found to have rhabdomyolysis, ARF,
   bilateral pulmonary infiltrates, and pneumomediastinum.
   # RP bleed/anemia: In setting of renal biopsy and uremic platelets.
   Hct stable since transfusion. Per surgery, will hold off on angio and
   embolization for now.
   - Trend hct and coags Q12H, transfuse for hct<21
   - Follow-up with IR and transplant surgery
   # ARF: Initial renal biopsy results most consistent with pigment
   nephropathy with complete results pending.  ASO negative, making
   post-Strep GN unlikely. Would consider IgA process or other vasculitis
   process with immunostaining pending.  C3 low, normal C4, ANCA negative.
   Patient completed pulse dose steroids on [**4-25**]. Adenovirus negative, HSV
   1 IgG positive/[**Doctor Last Name 7665**] negative, EBV equivocal.  IR temp HD line placed
   yesterday.
   - HD per renal
   - Follow-up with renal regarding biopsy results
   - Follow-up culture data, serologies, inflammatory work-up.
   - If renal biopsy most consistent with pigment nephropathy, patient
   will likely require intrinsic muscle disorder work-up including muscle
   biopsy when stable.
   # Leukocytosis: WBC stable at 23 with left shift.  Likely stress
   reaction to RP bleed.  Patient has been afebrile and was pan-cultured.
   - Follow-up culture data
   - Continue amp/sulbactam through this morning, then discontinue
   - IF patient spikes or becomes hemodynamically unstable, would consider
   non-con CT chest to eval for organized effusions.
   # Rhabdomyolysis: Unclear precipitating event at this time. CKs and
   LFTs trending down.  As above, if ARF is ultimately secondary to
   pigment nephropathy, would need to further work-up rhabdomyolysis. TSH
   normal.
   - Serial CKs, LFTs, and electrolytes
   # Fever: Patient has been afebrile since [**4-23**].  Broad differential as
   has been noted including infectious, inflammatory, toxin-mediated.
   Continues to be hemodynamically stable.
   - Follow-up culture data
   # Respiratory failure: Intubated for airway protection in the setting
   of coffee-ground emesis, now extubated.
   - Continue to wean O2 as tolerated, currently at 2L nc.
   # GIB: Multifactorial from GI losses, bleeding diathesis from uremic
   platelets with most recent complication being RP bleed from renal
   biopsy.
   - Continue to trend and transfuse for Hct < 21 and or HD instability
   - 2 large bore PIV
   - Active T+S.
   # Rash: Rapidly improved over the course of hospitalization. Appreciate
   dermatology consult, who feel that transient nature of rash most
   consistent with toxin-mediated mechanism.  Mucositis improved today.
   - Follow-up derm recs if any, although unlikely to biopsy at this time.
   # Pneumomediastinum: Per Thoracics, less likely esophageal source given
   location and more likely to be ruptured bleb. Esophagram without
   extravasation.
   - Follow-up thoracics recs if any
   # Acid base balance: Patient with anion gap acidosis likely from uremia
   with relatively appropriate respiratory compensation.
   - Trend chemistries
   - HD per renal
   # Transaminitis: Likely secondary to rhabdomyolysis rather than liver
   disease given preserved synthetic function. AMA, [**Last Name (un) 4195**], [**Doctor First Name **] negative.
   - Trend LFTs with CKs and chemistries
   - Appreciate liver input
   FEN: Regular, replete as necessary, ISS
   PPx: SCDs.
   ACCESS: PIV x4. R femoral HD line pulled. Temp HD line by IR today.
   CODE: FULL
   COMM: Father: [**Name (NI) 7577**] [**Name (NI) **] [**Doctor Last Name 7578**]- met with SW [**4-24**], note in OMR.
   DISP: ICU level of care, although may be able to call out this evening
   or tomorrow if pt remains stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   14 Gauge - [**2129-4-26**] 11:00 AM
   18 Gauge - [**2129-4-26**] 11:00 AM
   Dialysis Catheter - [**2129-4-28**] 12:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: